US06555685B1
Nucleosides and Nucleotides, 15(5), 981-994 (1996) and WO 95/28402 disclose a process for the manufacture of the anti-viral agents 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-aminopurine (famciclovir) and 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine (penciclovir). According to this process, the ‘bromoester’ route, 2-amino-6-chloropurine is reacted with triethyl 3-bromopropane-1,1,1-tricarboxylate in the presence of base to form diethyl 2-[2-(2-amino-6-chloropurin-9-yl)ethyl]-2-carboxymalonate. The crude isolate from this alkylation reaction is then treated with sodium methoxide in methanol to form dimethyl 2-[2-(2-amino-6-chloropurin-9-yl)ethyl] malonate. This product is purified by crystallisation and then successively reduced using sodium borohydride and O-acetylated to give 9-(4-acetoxy-3-acetoxymethylbutyl)-2-amino-6-chloropurine. Famciclovir is produced directly from the latter compound by hydrogenation over a supported palladium catalyst; and penciclovir is produced from this compound by acid hydrolysis of the acetoxy groups.

reactant | 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-aminopurine | C(C)(=O)OCC(CCN1C2=NC(=NC=C2N=C1)N)COC(C)=O | C14H19N5O4
reactant | 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | 2-amino-6-chloropurine | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | triethyl 3-bromopropane-1,1,1-tricarboxylate | BrCCC(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C12H19BrO6
product | diethyl 2-[2-(2-amino-6-chloropurin-9-yl)ethyl]-2-carboxymalonate | NC1=NC(=C2N=CN(C2=N1)CCC(C(=O)OCC)(C(=O)OCC)C(=O)O)Cl | C15H18ClN5O6
